US07598423B2
Synthesis of 1-(3-{[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-hydroxy-methyl}-phenyl)-2-chloro-ethanone
Add oxalyl chloride (256 mg, 2.02 mmol) to a solution of 3-{[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzoic acid (0.786 mg, 1.84 mmol) in tetrahydrofuran (0.20M). Add dimethylformamide (5 drops). Add ethereal solution of diazomethane (1.90 mmol) and stir for 2 hours. Add hydrochloric acid (4N in dioxane) to quench unreacted diazomethane and evaporate solvents to afford the title compound (0.786 mg, 1.84 mmol, 94%): MS (m/z): 457 (M−H).

reactant | oxalyl chloride | 2.02 mmol, 256 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-{[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzoic acid | 1.84 mmol, 0.786 mg | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C(=O)O)C=CC2)O)C=C1)Cl)O | C23H19ClO6
reactant | diazomethane | 1.90 mmol | [N+](=[N-])=C | CH2N2
solvent | tetrahydrofuran | 0.20M | O1CCCC1 | C4H8O
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
product | 1-(3-{[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-hydroxy-methyl}-phenyl)-2-chloro-ethanone | 1.84 mmol, 0.786 mg, 94% | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C=CC2)C(CCl)=O)O)C=C1)Cl)O | C24H20Cl2O5
